* source AMPLICARE_IN_BUCLA_DESCHISA
Q_Q1         N306188 N306110 N306008 QBC856B 
D_D2         0 N306214 BZX84-C8V2 
Q_Q4         N306110 N306308 N306320 QBC846B 
Q_Q3         N306188 N306214 N306320 QBC846B 
R_R3         N306214 N306020  4.7k TC=0,0 
R_R7         0 N306320  2.7k TC=0,0 
R_R1         N306020 N305870  4.7k TC=0,0 
V_V2         N306308 0  AC 0
+SIN 8.2 1 100 0 0 0
R_R5         N306008 N305870  220 TC=0,0 
R_R6         N306014 N305870  220 TC=0,0 
R_R2         N306020 N305870  4.7k TC=0,0 
V_V1         N305870 0 42
R_R4         N306214 N306020  4.7k TC=0,0 
Q_Q2         N306110 N306110 N306014 QBC856B 
