* source SERS N21
R_RL4         N463914 N463742  220 TC=0,0 
R_R6         N463050 N462396  220 TC=0,0 
C_C1         0 N462528  10n  TC=0,0 
R_RDI3         N463176 N462396  22k TC=0,0 
R_R3         N463428 N463028  4.7k TC=0,0 
R_RDO3         N463236 N462528  3.9k TC=0,0 
R_RDI1         N463176 N462396  22k TC=0,0 
R_R4         N463428 N463028  4.7k TC=0,0 
D_D1         0 N463428 BZX84-C8V2 
R_RSC2         N462778 N462860  0.47 TC=0,0 
Q_Q4         N463368 N463734 N463752 QBC846B 
Q_Q8         N463062 N462474 N462396 QBC856B 
R_R7         0 N463752  2.7k TC=0,0 
Q_Q9         N463062 N463502 N462396 QBC856B 
Q_Q1         N463062 N463368 N463044 QBC856B 
R_RSC3         N462468 N462860  0.47 TC=0,0 
Q_Q3         N463062 N463428 N463752 QBC846B 
Q_Q2         N463368 N463368 N463050 QBC856B 
Q_Q6         N462528 N462664 N462896 QMJD32CT4G 
X_R9         N463474 N463734 N463760 POT PARAMS: SET={SET} VALUE=10k
Q_Q5         N462528 N463062 N462664 QBC856B 
R_RL3         N463742 N463480  220 TC=0,0 
R_REQ6         N462896 N462474  0.47 TC=0,0 
R_R13         N462396 N463502  5.6k TC=0,0 
R_RSC1         N462396 N462778  0.47 TC=0,0 
R_R11         N463896 N463890  9.1k TC=0,0 
R_R8         N463474 N462528  5.6k TC=0,0 
R_RDI4         N463176 N462396  22k TC=0,0 
X_D3         N463236 0 LED PARAMS: IS=5.6404e-029 RS=30  BV=5 IBV=5e-6         
R_REQ7         N462502 N462474  0.47 TC=0,0 
R_RSC5         N462474 N462468  0.47 TC=0,0 
R_RDO2         N463236 N462528  3.9k TC=0,0 
R_RL2         N463480 N462926  220 TC=0,0 
R_RDI2         N463176 N462396  22k TC=0,0 
Q_Q10         N463502 N463896 0 QBC846B 
R_R2         N463028 N462396  4.7k TC=0,0 
R_R5         N463044 N462396  220 TC=0,0 
R_RDO1         N463236 N462528  3.9k TC=0,0 
Q_Q11         N462396 N463428 N463890 QBC846B 
Q_Q7         N462528 N462664 N462502 QMJD32CT4G 
R_RL5         0 N463914  220 TC=0,0 
R_R1         N463028 N462396  4.7k TC=0,0 
R_R12         0 N463896  510 TC=0,0 
R_RSC4         N462474 N462468  0.47 TC=0,0 
X_D2         N463176 0 LED PARAMS: IS=5.6404e-029 RS=30  BV=5 IBV=5e-6         
V_V1         N462396 0 42
R_R10         0 N463760  10k TC=0,0 
R_RL6         N462926 N462528  220 TC=0,0 
.PARAM  set=0
